US04282365
Step E: 6,11-Dihydro-2,3-methylenedioxy-11-oxodibenz[b,e]oxepin-9-carboxylic Acid
Heat a mixture of 4.98 gm. (0.0178 mole) of 6,11-dihydro-2,3-methylenedioxy-11-oxodibenz[b,e]-oxepin-9-carbonitrile, 90 ml. of acetic acid, 9 ml. of concentrated hydrochloric acid under reflux of 74 hours. Cool the reaction mixture and separate the solids by filtration and dry (yield 3.45 gm.). Suspend the solids in water and treat with N-methylpiperazine. Remove base insolubles by filtration and acidify the filtrate with concentrated hydrochloric acid to the Congo Red end point. Separate the solids by filtration and dry. Purify by recrystallization from acetic acid to obtain the title product (m.p. 320°-321° C.)

reactant | 6,11-dihydro-2,3-methylenedioxy-11-oxodibenz[b,e]-oxepin-9-carbonitrile | 0.0178 mole | C1OC2=CC3=C(OCC4=C(C3=O)C=C(C=C4)C#N)C=C2O1 | C16H9NO4
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 6,11-Dihydro-2,3-methylenedioxy-11-oxodibenz[b,e]oxepin-9-carboxylic Acid | C1OC2=CC3=C(OCC4=C(C3=O)C=C(C=C4)C(=O)O)C=C2O1 | C16H10O6
